US08957068B2
A solution of (S)-4-(1-(tert-butoxycarbonylamino)ethyl)-2-fluorobenzoic acid (1.416 g, 5 mmol), N,O-dimethylhydroxylamine hydrochloride (732 mg, 7.5 mmol), HATU (2.85 g, 7.5 mmol) and DIPEA (3.49 mL, 20 mmol) in DMF (25 mL) was stirred at room temperature for 16 h. The reaction mixture was diluted with EtOAc and washed with water. After separation, the aqueous phase was washed with EtOAc (2×75 mL). Combined organics were dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/heptane 12 to 100%) provided (S)-tert-butyl 1-(3-fluoro-4-(methoxy(methyl)carbamoyl)phenyl)ethylcarbamate as a white solid (1.5 g, 92% yield).

reactant | (S)-4-(1-(tert-butoxycarbonylamino)ethyl)-2-fluorobenzoic acid | 5 mmol, 1.416 g | C(C)(C)(C)OC(=O)N[C@@H](C)C1=CC(=C(C(=O)O)C=C1)F | C14H18FNO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 7.5 mmol, 732 mg | Cl.CNOC
reactant | HATU | 7.5 mmol, 2.85 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 20 mmol, 3.49 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc heptane | CCOC(=O)C.CCCCCCC
product | (S)-tert-butyl 1-(3-fluoro-4-(methoxy(methyl)carbamoyl)phenyl)ethylcarbamate | 1.5 g, 92% yield | FC=1C=C(C=CC1C(N(C)OC)=O)[C@H](C)NC(OC(C)(C)C)=O | C16H23FN2O4
